Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
acute renal failure, infected R foot
 
Major Surgical or Invasive Procedure:
R foot debridement X 2 with implantation of antibiotic coated 
beads

 
History of Present Illness:
Mr. ___ is a ___ yoM with CKD stage ___, DM, h/o right foot 
ulcers who presented today to the ___ ED for evaluation. Per 
the patient, he was seen recently here by his renal physician, 
who noted that his blood pressure was low (and also, per notes, 
that his Cr was elevated from baseline). He was advised to see 
his PCP, which he did today, and who referred him to the 
___. He notes that he has been feeling very well and has no 
specific complaints, including any trouble with his heel. He 
does report that two weeks ago, the patient had a bout of 
ongoing nausea/vomiting which lasted until recently.  
.  
At the ___ ED, the pt was found to have an elevated WBC 
count, ARF and was orthostatic with an SBP of 85 on standing. 
There was concern for an acute infection of his right heel. He 
was given IVF, then transferred to ___ where he is followed by 
podiatry. The podiatry service evaluted him in the ED and 
planned to take him to the OR for a heel intervention. On 
arrival in the OR, the pt was found to be in AF with RVR to the 
140s with an SBP again in the ___. The pt's foot was quickly 
evaluated and emergent intervention was felt not to be 
necessary. He was started on a NeoSynephrine drip and with this 
his BP rose to the 130s; he continued to be completely 
asymptomatic. In an attempt at HR control, the pt was given a 
total of 10 mg IV metoprolol with little response. The 
NeoSynephrine was able to to be weaned at this point with little 
change in BP. IV diltiazem was then utilized, with the pt coming 
under good HR control after 10 mg IV. He was given 30 mg 
diltiazame PO x 2, and then one addition 10 mg IV dose prior to 
transfer to the medical floor (MICU admission had initially been 
considered, however it was felt the patient was stable for floor 
managment).  
.  
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias.  

 
Past Medical History:
Type 2 Diabetes  
Chronic Renal Insufficiency, baseline 2.3  
HTN  
Hyperlipidemia  
CVA in ___  
R Charcot Foot  
Peripheral Neuropathy 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Vitals: T 98.9 P ___ R 16 98/70 100% on 2L  
Gen: Well appearing adult male, no acute distress.  
HEENT: PERRL, EOMI. Dry MM. Conjunctiva well pigmented.  
Neck: Supple, without adenopathy or JVD. No tenderness with 
palpation.  
Chest: CTAB anterior and posterior.  
Cor: Normal S1, S2. RRR. No murmurs appreciated.  
Abdomen: Soft, non-tender and non-distended. +BS, no HSM.  
Extremity: Right heel ulceration with surrounding erythema 
noted. No clear lymphangitis. Otherwise warm, without edema. 2+ 
DP pulses bilat.  
Neuro: Alert and oriented. CN ___ intact. Motor strength intact 
in all extremities. Sensation intact grossly.  
 
Pertinent Results:
LABS ON ADMISSION:

___ 04:00PM   WBC-20.8*# RBC-3.73* HGB-11.7* HCT-34.6* 
MCV-93# MCH-31.3# MCHC-33.7 RDW-14.1
___ 04:00PM   NEUTS-88.1* LYMPHS-6.7* MONOS-4.6 EOS-0.4 
BASOS-0.2
___ 04:00PM   PLT COUNT-579*#
___ 04:00PM   ___ PTT-32.5 ___
___ 04:00PM   TSH-2.2
___ 04:00PM   CK-MB-2 cTropnT-0.02*
___ 04:00PM   CK(CPK)-24*
___ 04:00PM   GLUCOSE-101 UREA N-56* CREAT-5.3* SODIUM-131* 
POTASSIUM-3.7 CHLORIDE-100 TOTAL CO2-10* ANION GAP-25*
___ 04:17PM   LACTATE-1.5
___ 12:00AM   CK-MB-NotDone cTropnT-0.02*
___ 12:00AM   CK(CPK)-17*

STUDIES
R foot x-ray ___ - Charcot changes in the hindfoot with soft 
tissue swelling and air within the adjacent soft tissues is 
highly suggestive of infection. A bone scan would help confirm 
this. 

CXR ___ - No acute cardiopulmonary process

R foot x-ray ___ - Since the previous study, there has been 
partial resection of the calcaneus and debridement of the 
posterior heel. There is also antibiotic impregnated beads 
placed in the surgical bed. There is again seen a retained 
metallic screw within the calcaneus. 

Renal U/S ___. No sonographic evidence for obstruction, 
mass, or nephrolithiasis. 
2. No sonographic evidence for renal artery stenosis. 

TTE ___ - The left atrium is dilated. The right atrium is 
moderately dilated. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal. Overall 
left ventricular systolic function is normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion.   

LABS ON DISCHARGE:
WBC 8.9  Hgb 7.9  Hct 23.8  Plts 488
Na 137  K 3.2 (repleted 20 meq KCL)  Cl 104  HCO3 16  BUN 49  Cr 
5.5 (down from 5.8 the day prior)  Glu 137
Ca 8.3  Mg 1.7  Phos 6.___ year old male with DM, CKD, prior CVA and known right Charcot 
foot presents with infected right heel, new AF with RVR, and 
acute on chronic renal failure.  
.  
1) Right heel osteomyelitis: In the setting of previously known 
right Charcot foot. Transferred from OSH ED to ___ for 
management of right heel ulcer and infection. Upon arrival to 
the OR, pt found to be in atrial fibrillation with rapid 
ventricular response. Procedure was aborted and admitted to 
medicine. Upon medical stabilization of atrial fibrillation and 
acute on chronic renal failure (see below), the patient went 
back to the OR on ___ for debridement of the R heel ulcer and 
implanatation of antibiotic coated beads. Wound cultures 
revealed GNRs, GPC, and Bacteriodes fragilis. Calcaneal tissue 
removed from the OR revealed acute osteomyelitis. Blood cultures 
were negative. He was then started on IV vancomycin and zosyn, 
renally dosed, and will need to complete a 6 week course of 
antibiotics. A PICC was placed. Given renal failure, vancomycin 
will need to be dosed by level for goal of ___. He was taken 
back to the OR on ___ by podiatry for another debridement. A 
dressing change was performed by podiatry the morning after and 
he was placed in a bivalve cast in slight plantar flexion 
position the following day. He will need daily dressing changes 
per page 1 recommendations by podiatry. He will f/u with his 
podiatrist, Dr. ___, as an outpatient.
.
2) Leukocytosis: Likely from heel infection. Blood cx no growth, 
urine culture revealed E. Coli sensitive to zosyn, and calcaneal 
tissue from the OR showed signs of acute osteomyelitis. He was 
treated with IV vancomycin and zosyn as above and will need to 
complete a 6 week course for osteomyelitis.
.
3) Atrial fibrillation: No previously known history of atrial 
fibrillation. Rate controlled with uptitration of metoprolol. 
TSH wnl and ruled out MI with 3 sets of negative CEs. TTE 
revealed dilated LA and RA. Given CHADS score of 4, he was 
started on anti-coagluation on ___ after surgical management of 
osteomyelitis as above. He was transferred to a LTAC for heparin 
drip bridge onto coumadin. He also remained on aggrenox. He was 
seen by his outpatient cardiologist Dr. ___ 
follow-up with as an outpatient for consideration of a 
cardioversion and possible initiation of amiodarone. Per Dr. 
___, LFTs and a TSH were checked and pending upon 
discharge.

4) Acute on chronic renal failure: Cr 5.3 on admission, peaked 
to 5.8, and was 5.5 at the time of discharge. He was seen by the 
renal consultants who initially thought the patient may have 
been pre-renal and have ATN, possibly from poor forward flow 
state from afib with RVR, as his urine sediment did reveal muddy 
brown casts. UA initially showed FeNa of 1.6, then progressed to 
3, then 7 during course of hospitalization. Renal U/S with 
dopplers showed no signs of renal artery stenosis, vein 
thrombosis, or hydronephrosis. UA showed sterile pyuria and 
culture with e.coli sensitive to zosyn, which pt was already 
receiving for osteomyelitis. Renal did not feel pt needed acute 
hemodialysis, but will likely need dialysis in the future. Outpt 
ACEI and ___ held. He was started on Al(OH)3 X 3 days for 
hyperphosphatemia and then transitioned onto sevelamer. He was 
also started on daily iron and may need epogen in the future. He 
is to follow-up with Dr. ___ as an outpatient.

5) Normocytic Anemia: No signs of blood loss.  Likely 
hemoconcentrated on admission. Renal disease also likely 
contributing to anemia. No transfusions were needed and the 
patient was started on iron supplementation as above. 
.  
6) AG Metabolic Acidosis: Likley from chronic renal failure. He 
was started on bicitra per renal recommendations.
.  
7) HTN: Had borderline BP in setting of infection, ARF and new 
AF. Held ACEi and ___ given renal failure. Also held amlodipine 
while metoprolol was being uptitrated. 
.  
8) EtOH abuse: Per pt, last drink several days prior to 
admisison, and thus withdrawal felt to be fairly unlikely. 
However, he was initially closely monitored on a CIWA scale with 
valium prn. There were no signs of alcohol withdrawal during 
hospitalization. He was started on a daily MVI, thiamine, and 
folate. Given h/o EtOH abuse and coumadinization, cardioversion 
was discussed as an option for the pt with his cardiologist as 
above. He will f/u with his cardiologist as an outpatient.
.  
9) DM2: HbgA1c from ___. Placed on HISS. 
.  
10) h/o CVA: Neuro exam stable. Continued home Aggrenox. ___ 
consider switching to EC aspirin given coumadin in future.

Full code
 
Medications on Admission:
Amlodipine 5 mg daily  
Aggrenox ___ daily  
Folic acid 1 mg daily  
lisinopril 20 mg daily  
Toprol XL 100 mg daily  
olmesartan 40 mg daily  
Prandin 0.5 mg before each meal  
simvastatin 40 mg daily  
 
Discharge Medications:
1. Metoprolol Tartrate 25 mg Tablet Sig: 1.5 Tablets PO TID (3 
times a day): hold for sbp < 100, hr < 55.  
2. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. Aluminum Hydroxide Gel 600 mg/5 mL Suspension Sig: Five (5) 
ML PO TID W/MEALS (3 TIMES A DAY WITH MEALS) for 2 days.  
8. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
9. Sodium Bicarbonate 650 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).  
10. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
11. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
12. Senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day) 
as needed.  
13. Acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain, fever.  
14. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for pain.  
15. Humalog 100 unit/mL Solution Sig: per attached insulin 
sliding scale units Subcutaneous qachs.  
16. Zosyn 2.25 gram Recon Soln Sig: One (1) recon soln 
Intravenous every eight (8) hours for 6 weeks: day 1 ___, to 
complete 6 week course to stop on ___.  
17. Vancomycin 1,000 mg Recon Soln Sig: One (1) gram Intravenous 
dose by vanc level for 6 weeks: Please dose for vanc level < 20. 
Goal trough levels ___. 
Day 1 ___, to complete 6 week course on ___.  
18. ___ line care
___ line care per routine
19. Heparin Flush 10 unit/mL Kit Sig: Two (2) ml Intravenous 
prn: PICC, heparin dependent: Flush with 10mL Normal Saline 
followed by Heparin as above daily and PRN per lumen.  
20. Heparin, Porcine (PF) 25,000 unit/10 mL Solution Sig: per 
attached heparin drip guidelines ML Intravenous continuous: To 
continue until INR therapeutic between ___ for 2 days.  
21. Dipyridamole-Aspirin 200-25 mg Cap, Multiphasic Release 12 
hr Sig: One (1) Cap, Multiphasic Release 12 hr PO twice a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
R heel osteomyelitis
Atrial fibrillation with rapid ventricular response
Acute on chronic renal failure

Secondary Diagnosis:
Diabetes mellitus, type 2 complicated by peripheral neuropathy, 
nephropathy
Hypertension
Hyperlipidemia
h/o CVA

 
Discharge Condition:
Good, afebrile, vital signs stable. 

 
Discharge Instructions:
You were admitted with a diabetic foot infection that required 2 
surgeries and will need long-term IV antibiotic therapy. During 
this hospitalization, you were also noted to have worsening of 
your kidney function and developed a rapid, irregular heart beat 
called atrial fibrillation. You will need to take a blood 
thinner called coumadin for the irregular heartbeat. 

The following changes were made to your medication regimen:
1) You will need to take two antibiotics called vancomycin and 
zosyn for a total of 6 weeks for your foot infection.
2) You were started on a blood thinner called coumadin for your 
irregular heartbeat. You will also be on another medication 
called heparin until your coumadin levels become therapeutic.
3) You were started on a daily multivitamin, thiamine, and 
folate.
4) You were started on a heart medication called metoprolol to 
help control your heart rate and blood pressure.
5) We are holding your amlodipine.
6) We are also holding your lisinopril and olmesartan, other 
blood pressure medications, given your kidney failure.
7) You were started on a medication called aluminum hydroxide to 
decrease the amount of phosphorus in your blood. You will only 
take 3 days total of this medication.

Please call your doctor or return to the emergency room if you 
experience any of the following: fever > 101, worsening R foot 
pain or drainage, palpitations, lightheadedness, chest pain, or 
increasing confusion.
 
Followup Instructions:
___